US08278322B2
Step 1: 7-bromo-1-chloroisoquinoline 2-oxide
To a solution of 7-bromo-1-chloroisoquinoline (4.0 g, 15.8 mmol) in DCM (100 mL) at 0° C. was added mCPBA (˜77%, 7.46 g, 33.3 mmol). The reaction was allowed to stir at room temperature for 24 hours, diluted with DCM (100 mL) and washed with 1N NaOH and brine. The DCM extracts were dried over Na2SO4, filtered, concentrated and chromatographed on silica eluting with 5 to 15% acetone/DCM to give the title compound (1.43 g). LRMS (M+H)+=258.0.

reactant | 7-bromo-1-chloroisoquinoline | 15.8 mmol, 4.0 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
reactant | mCPBA | 33.3 mmol, 7.46 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-1-chloroisoquinoline 2-oxide | 1.43 g | BrC1=CC=C2C=C[N+](=C(C2=C1)Cl)[O-] | C9H5BrClNO
